US06197770B1
Methyl 2-N-boc-amino-5-(4-morpholinophenyl)-pent-4-ynoate: 4-Iodoaniline (6.2 g, 28.4 mmol) is taken in 50 mL of DMF in the presence of 8 mL of bromoethyl ether and 10 mL of Et3N and heated to 60° C. for 24 hr. The mixture is then diluted with EtOAc, and washed 3x with dil. NaHCO3, 1x with brine, dried over MgSO4, filtered and evaporated. The residue is then recrystallized from MeOH to give 4.21 g of 4-iodophenylmorpholine as a pale brown solid.

reactant | 4-Iodoaniline | 28.4 mmol, 6.2 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | bromoethyl ether | 8 mL | BrCCOCCBr | C4H8Br2O
reactant | Et3N | 10 mL | CCN(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-iodophenylmorpholine | 4.21 g | IC1=CC=C(C=C1)N1CCOCC1 | C10H12INO
